US05280022
5-Phenoxypentylaminomethylenebisphosphonic acid disodium salt trihydrate (1.0 g) was dissolved in water (5 ml). The solution was processed with a column of CG-50 (H type, 32 ml). The solid matter obtained from the acidic portion eluted with water was recrystallized from water-methanol to afford 5-phenoxypentylaminomethylenebisphosphonic acid monosodium salt hemihydrate (0.58 g, 68%) as colourless prisms, m.p.>300° C.

reactant | 5-Phenoxypentylaminomethylenebisphosphonic acid disodium salt trihydrate | 1.0 g | O.O.O.[Na+].[Na+].O(C1=CC=CC=C1)CCCCCNC(P(O)(O)=O)P([O-])([O-])=O
solvent | water | 5 ml | O | H2O
product | 5-phenoxypentylaminomethylenebisphosphonic acid monosodium salt hemihydrate | 0.58 g, 68% | O.[Na+].O(C1=CC=CC=C1)CCCCCNC(P(O)(O)=O)P([O-])(O)=O.O(C1=CC=CC=C1)CCCCCNC(P(O)(O)=O)P([O-])(O)=O.[Na+] | InChI=1S/2C12H21NO7P2.2Na.H2O/c2*14-21(15,16)12(22(17,18)19)13-9-5-2-6-10-20-11-7-3-1-4-8-11;;;/h2*1,3-4,7-8,12-13H,2,5-6,9-10H2,(H2,14,15,16)(H2,17,18,19);;;1H2/q;;2*+1;/p-2
